US04544400
Following the procedure of Example 2, 5-(4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide (0.7 g) and triethyl phosphite (5 ml) in 75 ml of ethanol are heated under reflux for 2 hours. The reaction is cooled and stripped, and the residue is purified to give 5-(4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole, m.p. 77°-78°.

reactant | 5-(4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide | 0.7 g | FC(C1=CC=C(OC2=CC=3C(=[N+](ON3)[O-])C=C2)C=C1)(F)F | C13H7F3N2O3
reactant | triethyl phosphite | 5 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-(4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole | FC(C1=CC=C(OC2=CC=3C(=NON3)C=C2)C=C1)(F)F | C13H7F3N2O2
